US05245046
α-Aminoindole-3-acetic Acid
A mixture of 2 g of ethyl α-aminoindole-3-acetate, excess dilute NaOH solution, and a few mL of MeOH was stirred occasionally for 25 minutes. Since a solution had not been obtained, the mixture was heated on a steam bath for ten minutes. The resulting solution was allowed to stand at ambient temperature for 50 minutes. The solution was acidified with acetic acid. The solid which separated was collected by filtration and washed with H2O giving 1.50 g (86%) of the title compound as small buff plates, m.p. 217° (dec).

reactant | ethyl α-aminoindole-3-acetate | 2 g | NC(C(=O)OCC)C1=CNC2=CC=CC=C12 | C12H14N2O2
reactant | NaOH | [OH-].[Na+]
reactant | MeOH | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-Aminoindole-3-acetic Acid | NC(C(=O)O)C1=CNC2=CC=CC=C12 | C10H10N2O2
